US07192943B2
To a solusion of 1,1′-oxalyldiimidazole (1.52 g) in N,N-dimethylformamide (16 ml) was added 1-methyl-N5-trityl-1H-pyrazole-4,5-diamine (1.42 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added a solution of di-tert-butyl [iminobis(2,1-ethanediyl)]biscarbamate (4.55 g) in N,N-dimethylformamide (4 ml) under ice-cooling, and the mixture was stirred at room temperature for 1 day and then allowed to stand at room temperature for 9 days. To the reaction mixture were added ethyl acetate (50 ml) and methylene chloride (20 ml). The resulting precipitate was collected by filtration and dried in vacuo to give di-tert-butyl [({2-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]-2-oxoacetyl}imino)bis(2,1-ethanediyl)]biscarbamate (1.79 g) as a solid. The mother liquor was washed successively with water, 5% aqueous citric acid solution and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crystalline residue was washed with a mixed solvent of methylene chloride and diethyl ether, dried in vacuo and combined with the former solid to give di-tert-butyl [({2-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]-2-oxoacetyl}imino)bis(2,1-ethanediyl)]biscarbamate (2.44 g).

reactant | 1,1′-oxalyldiimidazole | 1.52 g | C(C(=O)N1C=NC=C1)(=O)N1C=NC=C1 | C8H6N4O2
reactant | 1-methyl-N5-trityl-1H-pyrazole-4,5-diamine | 1.42 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N | C23H22N4
reactant | di-tert-butyl [iminobis(2,1-ethanediyl)]biscarbamate | 4.55 g | N(CCNC(OC(C)(C)C)=O)CCNC(OC(C)(C)C)=O | C14H29N3O4
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | di-tert-butyl [({2-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]-2-oxoacetyl}imino)bis(2,1-ethanediyl)]biscarbamate | 1.79 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C(=O)N(CCNC(OC(C)(C)C)=O)CCNC(OC(C)(C)C)=O)=O | C39H48N6O6
